US09260440B2
A solution of compound (R)-methyl 9-fluoro-11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate (90 mg), acetic acid (0.54 g), and hydrazine hydrate (0.28 g) in methanol (30 mL) was heated at reflux. After 5 h, the reaction was cooled and water (5 mL) was added. The mixture was extracted with EtOAc (3×5 mL). The combined organic layers were washed with brine (10 mL) and dried over MgSO4. The mixture was filtered, and the filtrate was evaporated to dryness, and the residue was purified by Pre-TLC using CH2Cl2 as eluent to give 80 mg of (R)-2-fluoro-10a-methyl-7,8,9,10,10a,11-hexahydro-5,6,7a,11-tetraazacyclohepta[def]cyclopenta[a]fluoren-4(5H)-one. 1H NMR (DMSO-d6) δ 11.9 (s, 1H), 10.2 (s, 1H), 7.30 (d, 1H, J=9.6 Hz), 7.20 (d, 1H, J=10.2 Hz), 3.76 (d, 1H, J=16.4 Hz), 3.34 (d, 1H, J=16.4 Hz), 2.99-3.02 (m, 1H), 2.54-2.58 (m, 1H), 2.35-2.40 (m, 1H), 1.90-1.94 (m, 1H), 1.73-1.75 (m, 1H), 1.48 (s, 3H), and 1.43-1.45 (m, 1H). MS (ESI) m/e [M+1]+ 299.

reactant | (R)-methyl 9-fluoro-11b-methyl-6-oxo-2,3,5,6,11,11b-hexahydro-1H-indolizino[8,7-b]indole-7-carboxylate | 90 mg | FC=1C=C(C=2C3=C(NC2C1)[C@]1(CCCN1CC3=O)C)C(=O)OC | C17H17FN2O3
reactant | acetic acid | 0.54 g | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 0.28 g | O.NN
reactant | water | 5 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | (R)-2-fluoro-10a-methyl-7,8,9,10,10a,11-hexahydro-5,6,7a,11-tetraazacyclohepta[def]cyclopenta[a]fluoren-4(5H)-one | 80 mg | FC=1C=C2C=3C=4C(CN5[C@@](C4NC3C1)(CCC5)C)=NNC2=O | C16H15FN4O
